US05665747
1,1-Bis(4,5-dimethyl-2-thiazolyl)-2,2,2-trifluoroethyl Acetate
Acetyl chloride (0.68 ml) was added to a solution of 1,1-bis(4,5-dimethyl-2-thiazolyl)-2,2,2-trifluoroethanol (1.54 g) and 4-dimethylaminopyridine (2 g) in dry dichloromethane (70 ml). The mixture was stirred at room temperature overnight and was then washed with saturated aqueous sodium hydrogen carbonate solution. The organic phase was separated, dried and evaporated and the residue was purified by flash chromatography to give the title compound.

reactant | Acetyl chloride | 0.68 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1,1-bis(4,5-dimethyl-2-thiazolyl)-2,2,2-trifluoroethanol | 1.54 g | CC=1N=C(SC1C)C(C(F)(F)F)(O)C=1SC(=C(N1)C)C | C12H13F3N2OS2
catalyst | 4-dimethylaminopyridine | 2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1,1-Bis(4,5-dimethyl-2-thiazolyl)-2,2,2-trifluoroethyl Acetate | C(C)(=O)OC(C(F)(F)F)(C=1SC(=C(N1)C)C)C=1SC(=C(N1)C)C | C14H15F3N2O2S2
